US07951811B2
Under N2 atmosphere, a mixture of 1-(4-bromo-2,6-dimethyl-phenyl)-4-[4-(2-iodo-ethyl)-piperidin-1-yl]-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridine (0.25 g) and triethyl phosphite (10 mL) was heated at 160° C. for 4.5 hours. After the reaction was completed, excess triethyl phosphate was removed under reduced pressure. The residue was purified with column chromatography (silica gel: Wako gel C200, eluent: hexane:ethyl acetate=1/1) to obtain a colorless oil. The oily product was crystallized from diisopropylether (10 mL) to provide (2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl)-phosphonic acid diethyl ester (0.16 g) as a white crystal.

reactant | 1-(4-bromo-2,6-dimethyl-phenyl)-4-[4-(2-iodo-ethyl)-piperidin-1-yl]-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridine | 0.25 g | BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CCI)C)C)C | C24H29BrIN3
reactant | triethyl phosphite | 10 mL | P(OCC)(OCC)OCC | C6H15O3P
product | (2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl)-phosphonic acid diethyl ester | 0.16 g | C(C)OP(OCC)(=O)CCC1CCN(CC1)C1=C2C(=NC(=C1)C)N(C=C2C)C2=C(C=C(C=C2C)Br)C | C28H39BrN3O3P
